US03993658
Using a procedure similar to that described in Example 9, part B above but substituting 4-methyl-5,6,7-triphenyl-1,3-diiminoisoindoline and 2-benzylamino-4-imino-2-thiazoline hydrochloride for the 1,3-diiminoisoindoline and 2-piperidino-4-imino-2-thiazoline hydrochloride respectively, there is obtained as the product 1-imino-4-methyl-5,6,7-triphenyl-3-(2-benzylamino-4-imino-2-thiazolin-5-ylidene)isoindoline hydrochloride.

reactant | 4-methyl-5,6,7-triphenyl-1,3-diiminoisoindoline | CC1=C2C(NC(C2=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=N)=N | C27H21N3
reactant | 2-benzylamino-4-imino-2-thiazoline hydrochloride | Cl.C(C1=CC=CC=C1)NC=1SCC(N1)=N
reactant | 1,3-diiminoisoindoline | N=C1NC(C2=CC=CC=C12)=N | C8H7N3
reactant | 2-piperidino-4-imino-2-thiazoline hydrochloride | Cl.N1(CCCCC1)C=1SCC(N1)=N
product | 1-imino-4-methyl-5,6,7-triphenyl-3-(2-benzylamino-4-imino-2-thiazolin-5-ylidene)isoindoline hydrochloride | Cl.N=C1NC(C2=C(C(=C(C(=C12)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C)=C1C(N=C(S1)NCC1=CC=CC=C1)=N | InChI=1S/C37H29N5S.ClH/c1-23-28(25-16-8-3-9-17-25)30(26-18-10-4-11-19-26)31(27-20-12-5-13-21-27)32-29(23)33(41-35(32)38)34-36(39)42-37(43-34)40-22-24-14-6-2-7-15-24;/h2-21H,22H2,1H3,(H2,38,41)(H2,39,40,42);1H
